US04735940
11.22 g of 7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylic acid were suspended in 40 ml of benzene, whereupon 1.8 ml of N,N-dimethylformamide di-tert-butyl acetal were added thereto, the mixture was heated under reflux for 15 minutes, an additional 1.8 ml of the above reagent were added thereto, the mixture was again heated under reflux for 15 minutes and this procedure was repeated again. After the reaction was completed, the mixture was evaporated in vacuo. After chromatography of the residue on silica gel and recrystallization from toluene, there was obtained tert-butyl 7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate as yellow crystals of m.p. 155°-157°.

reactant | 7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylic acid | 11.22 g | O=C1N2C=CC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)O)SC=C3 | C18H11NO3S
reactant | N,N-dimethylformamide di-tert-butyl acetal | 1.8 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | tert-butyl 7-oxo-8-phenyl-7H-thieno[2,3-a]quinolizine-10-carboxylate | O=C1N2C=CC3=C(C2=C(C=C1C1=CC=CC=C1)C(=O)OC(C)(C)C)SC=C3 | C22H19NO3S
